US08030334B2
5-Chloro-3-methyl-2-pyridin-3-yl-1H-indole hydrochloride is synthesized based on the method described in U.S. Pat. No. 3,468,894. (4-Chloro-phenyl)-hydrazine hydrochloride (3.0 g, 16.8 mmol) and 3-propionylpyridine (2.4 g, 17.6 mmol) in ethanol (45 mL) is heated to reflux for 6 h. The mixture is then cooled to room temperature and added to HCl (4M in 1,4-dioxane, 17.6 mL). The resulting mixture is heated to reflux for 24 h. The mixture is then cooled to room temperature and the yellow precipitate is filtered and washed with methanol (10 mL) three times to give 5-chloro-3-methyl-2-pyridin-3-yl-1H-indole hydrochloride as a yellow solid. MS (ESI) m/z 243.0 and 244.9 (M+H)+.

reactant | (4-Chloro-phenyl)-hydrazine hydrochloride | 16.8 mmol, 3.0 g | Cl.ClC1=CC=C(C=C1)NN
reactant | 3-propionylpyridine | 17.6 mmol, 2.4 g | C(CC)(=O)C=1C=NC=CC1 | C8H9NO
reactant | HCl | 4M, 17.6 mL | Cl | ClH
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 5-chloro-3-methyl-2-pyridin-3-yl-1H-indole hydrochloride | Cl.ClC=1C=C2C(=C(NC2=CC1)C=1C=NC=CC1)C | InChI=1S/C14H11ClN2.ClH/c1-9-12-7-11(15)4-5-13(12)17-14(9)10-3-2-6-16-8-10;/h2-8,17H,1H3;1H
